US06706757B2
Preparation of 5-Chloro-N-methyl-N-[2-({[(1R)-1-phenylethyl]amino}methyl)-3,4-dihydro-2H-chromen-7-yl)thiophene-2-sulfonamide Hydrochloride
A solution of [7-(methylamino)-3,4-dihydro-2H-chromen-2-yl]methanol (386 mg; 2.00 mmol) and pyridine (0.8 mL; 10 mmol) in dichloroethane is treated with 5-chlorothiophene-2-sulfonyl chloride (477 mg, 2.2 mmol), stirred at ambient temperature for 1 h, treated with pyridine (0.8 mL; 10 mmol) and benzenesulfonyl chloride (1.0 mL; 8 mmol), heated at 60° C. with stirring for 2 h, poured into water and extracted with ethyl ether. The combined extracts are washed successively with dilute aqueous HCl and saturated aqueous solution of sodium bicarbonate, dried over MgSO4 and concentrated in vacuo. The resultant residue is treated with (1R)-1-phenyl-1-ethanamine (2.6 mL; 20 mmol) at 100° C. with stirring for 2 h, cooled to ambient temperature, poured into water and extracted with ethyl ether. The combined extracts are washed with brine, dried over MgSO4 and concentrated in vacuo. The resultant residue is purified by column chromatography (silica gel, 1% methanol in methylene chloride) to afford the free base of the title product as a clear oil (525 mg, 55% yield). Treatment with an ethereal solution of HCl gives the title product as a white crystalline powder, mp 236° C., identified by NMR and mass spectral analyses.

reactant | [7-(methylamino)-3,4-dihydro-2H-chromen-2-yl]methanol | 2.00 mmol, 386 mg | CNC1=CC=C2CCC(OC2=C1)CO | C11H15NO2
reactant | pyridine | 10 mmol, 0.8 mL | N1=CC=CC=C1 | C5H5N
reactant | 5-chlorothiophene-2-sulfonyl chloride | 2.2 mmol, 477 mg | ClC1=CC=C(S1)S(=O)(=O)Cl | C4H2Cl2O2S2
reactant | pyridine | 10 mmol, 0.8 mL | N1=CC=CC=C1 | C5H5N
reactant | benzenesulfonyl chloride | 8 mmol, 1.0 mL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | (1R)-1-phenyl-1-ethanamine | 20 mmol, 2.6 mL | C1(=CC=CC=C1)[C@@H](C)N | C8H11N
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | water | O | H2O
product | 5-Chloro-N-methyl-N-[2-({[(1R)-1-phenylethyl]amino}methyl)-3,4-dihydro-2H-chromen-7-yl)thiophene-2-sulfonamide Hydrochloride | 525 mg, 55% yield | Cl.ClC1=CC=C(S1)S(=O)(=O)N(C1=CC=C2CCC(OC2=C1)CN[C@H](C)C1=CC=CC=C1)C | InChI=1S/C23H25ClN2O3S2.ClH/c1-16(17-6-4-3-5-7-17)25-15-20-11-9-18-8-10-19(14-21(18)29-20)26(2)31(27,28)23-13-12-22(24)30-23;/h3-8,10,12-14,16,20,25H,9,11,15H2,1-2H3;1H/t16-,20?;/m1./s1
